US07259179B2
N-[1-(6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl)-1H-benzimidazol-6-yl]benzamide
In a procedure analogous to example 32, reaction of 1-(6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl)-1H-benzimidazol-6-amine (50 mg, 0.15 mmol) and benzoyl chloride (21 mg, 0.15 mmol) furnished the product (50 mg, 76%) after chromatography.

reactant | 1-(6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl)-1H-benzimidazol-6-amine | 0.15 mmol, 50 mg | C1(=CC=CC=C1)[C@H](C)NC1=CN=CC(=N1)N1C=NC2=C1C=C(C=C2)N | C19H18N6
reactant | benzoyl chloride | 0.15 mmol, 21 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-[1-(6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl)-1H-benzimidazol-6-yl]benzamide | 50 mg, 76% | C1(=CC=CC=C1)[C@H](C)NC1=CN=CC(=N1)N1C=NC2=C1C=C(C=C2)NC(C2=CC=CC=C2)=O | C26H22N6O
